US07385020B2
2-octyl acrylate
A mixture of 2-octanol (268.51 grams, 2.1 mol), AA (183.75 grams, 2.6 mol), p-toluenesulfonic acid monohydrate (5.00 grams, 26 mmol), toluene (250 grams) and phenothiazine (1.0 grams) was heated to reflux. Water was separated from the toluene/water azeotrope using a Dean Stark distillation trap. After six hours at reflux a total of 37 milliliters of water was collected in the trap. The reaction mixture was washed with 1 Molar aqueous sodium hydroxide (200 milliliters), then concentrated under reduced pressure. The remaining oil was distilled under reduced pressure (65-67° C. at 2 mmHg) to give the product as a colorless oil. (Yield: 248.6 grams)

reactant | 2-octanol | 2.1 mol, 268.51 grams | CC(CCCCCC)O | C8H18O
reactant | p-toluenesulfonic acid monohydrate | 26 mmol, 5.00 grams | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | phenothiazine | 1.0 grams | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | toluene | 250 grams | C1(=CC=CC=C1)C | C7H8
product | 2-octyl acrylate | C(C=C)(=O)OC(C)CCCCCC | C11H20O2
